US07163947B2
A solution of di-tert-butyl dicarbonate (19.05 g, 87.29 mmol) in tetrahydrofuran (20 mL) was added dropwise to a mixture of 3-amino-1-propanol (6.55 g, 87.2 mmol), tetrahydrofuran (50 mL), and 10% aqueous sodium hydroxide (35 mL). The reaction was stirred for 16 hours. The tetrahydrofuran was removed under reduced pressure, and the residue was adjusted to pH 3 with the slow addition of 15% aqueous potassium hydrogen sulfate. The mixture was extracted with ethyl acetate (3×), and the combined organic fractions were washed sequentially with water and brine, dried over anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure to provide 16.6 g of tert-butyl 3-hydroxypropylcarbamate as a colorless oil containing some residual ethyl acetate.

reactant | di-tert-butyl dicarbonate | 87.29 mmol, 19.05 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 3-amino-1-propanol | 87.2 mmol, 6.55 g | NCCCO | C3H9NO
reactant | sodium hydroxide | 35 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | tert-butyl 3-hydroxypropylcarbamate | 16.6 g | OCCCNC(OC(C)(C)C)=O | C8H17NO3
